US07488712B2
Boc-DL-Pip-OH (2.29 g, 10 mmol) and benzyl bromide (1.79 ml, 15 mmol) were reacted in DMF (20 ml) in the presence of triethylamine (2.1 ml, 15 mmol) to obtain Boc-DL-Pip-OBzl as an oily product. This product was reacted with 2 N HCl/dioxane (5 eq.) for 3 hours to obtain H-DL-Pip-OBzl-HCl.

reactant | Boc-DL-Pip-OH | 10 mmol, 2.29 g | N1(C(C(=O)O)CCCC1)C(=O)OC(C)(C)C | C11H19NO4
reactant | benzyl bromide | 15 mmol, 1.79 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | triethylamine | 15 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Boc-DL-Pip-OBzl | N1(C(C(=O)OCC2=CC=CC=C2)CCCC1)C(=O)OC(C)(C)C | C18H25NO4
